US05948820
(3) 1,5-Dibenzyloxy-3-(2-phenylethyl)-3-pentanol
To a solution of 1,5-dibenzyloxy-3-pentanone (13.9 g) in tetrahydrofuran (150 ml) was dropwise added a solution of 2-phenylethyl-magnesium bromide, which was prepared from 2-phenylethyl bromide (24 g) and magnesium (3.1 g), in tetrahydrofuran (100 ml) under ice-cooling. The mixture was stirred under ice-cooling for 90 minutes, poured into a saturated aqueous ammonium chloride solution, and extracted with ethyl acetate. The ethyl acetate layer was washed with a saturated aqueous sodium hydrogencarbonate solution and a saturated brine, dried over anhydrous sodium sulfate, and concentrated. The residue obtained was purified by silica gel column chromatography (eluent; n-hexane:ethyl acetate=4:1) to give the subject compound (8.1 g) as a colorless oily substance.

reactant | 1,5-dibenzyloxy-3-pentanone | 13.9 g | C(C1=CC=CC=C1)OCCC(CCOCC1=CC=CC=C1)=O | C19H22O3
reactant | 2-phenylethyl-magnesium bromide | C1(=CC=CC=C1)CC[Mg]Br
reactant | 2-phenylethyl bromide | 24 g | C1(=CC=CC=C1)CCBr | C8H9Br
reactant | magnesium | 3.1 g | [Mg] | Mg
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 1,5-Dibenzyloxy-3-(2-phenylethyl)-3-pentanol | 8.1 g | C(C1=CC=CC=C1)OCCC(CCOCC1=CC=CC=C1)(O)CCC1=CC=CC=C1 | C27H32O3
